US07893056B2
To a stirred solution of THF (50 mL) cooled to −78° C. was added ethyl magnesium bromide (11.6 mL, 34.8 mmol) followed by titanium(IV) isopropoxide (2.042 mL, 6.96 mmol) and then (2S)-1-(phenylmethyl)-2-(1-pyrrolidinylcarbonyl)pyrrolidine (1.619 g, 6.96 mmol). The mixture was allowed to warm to room temperature and stir for 2 h, and was then checked by LCMS. Greater than 40% of the starting material remained, and so the mixture was stirred overnight, and then checked by LCMS again. Greater than 20% of the starting material remained, and therefore an additional portion of ethyl magnesium bromide (5.8 mL, 17.4 mmol) was added, and the mixture was allowed to stir for 2 h and was checked by LCMS again. Greater than 5% of the starting material remained, and an additional portion of ethyl magnesium bromide (2.32 mL, 6.96 mmol) was added and the mixture was allowed to stir for 2 h. When the reaction was complete as determined by LCMS, the reaction mixture was diluted with sat. aq. NH4Cl (150 mL) and water (50 mL), and the resulting white solid precipitate was filtered off. The pH of the filtrate was adjusted to >12 with 6 N aq. NaOH. The aqueous solution was extracted with Et2O (3×100 mL), and the combined organic layers were dried over MgSO4 and concentrated in vacuo. This crude product was purified by flash chromatography (Combiflash, 0-100% ethyl acetate/hexanes, 1% triethylamine) to provide (2S)-1-(phenylmethyl)-2-[1-(1-pyrrolidinyl)cyclopropyl]pyrrolidine (1.0837 g, 57%). LCMS: (M+H)+: 271.2.

reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | ethyl magnesium bromide | 34.8 mmol, 11.6 mL | C(C)[Mg]Br
reactant | (2S)-1-(phenylmethyl)-2-(1-pyrrolidinylcarbonyl)pyrrolidine | 6.96 mmol, 1.619 g | C1(=CC=CC=C1)CN1[C@@H](CCC1)C(=O)N1CCCC1 | C16H22N2O
reactant | ethyl magnesium bromide | 17.4 mmol, 5.8 mL | C(C)[Mg]Br
reactant | ethyl magnesium bromide | 6.96 mmol, 2.32 mL | C(C)[Mg]Br
solvent | NH4Cl | 150 mL | [NH4+].[Cl-]
solvent | water | 50 mL | O | H2O
catalyst | titanium(IV) isopropoxide | 6.96 mmol, 2.042 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (2S)-1-(phenylmethyl)-2-[1-(1-pyrrolidinyl)cyclopropyl]pyrrolidine | 1.0837 g, 57% | C1(=CC=CC=C1)CN1[C@@H](CCC1)C1(CC1)N1CCCC1 | C18H26N2
